US07129238B2
According to general procedure B (RS)-(2,6-difluoro-3-formyl-phenyl)-ethoxy-acetic acid was reacted with 4-aminomethyl benzonitrile to give (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-formyl-phenyl)-2-ethoxy-acetamide. Amorphous off-white solid. MS 359.2 ([M+H]+)

reactant | (RS)-(2,6-difluoro-3-formyl-phenyl)-ethoxy-acetic acid | FC1=C(C(=CC=C1C=O)F)C(C(=O)O)OCC | C11H10F2O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-formyl-phenyl)-2-ethoxy-acetamide | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C(=CC=C2F)C=O)F)=O)C=C1 | C19H16F2N2O3
